US04423071
(a) 2,3-Epoxy-propyl di-n-propylacetate
Into a flask were introduced 70 g (0.48 mol) of di-n-propylacetic acid, 250 ml of toluene and 30 ml of N,N-dimethylformamide. After this operation, 40 g of 50%-aqueous solution of sodium hydroxide were added. This mixture was heated to 60°-80° C. and 138.7 g (1.5 mol) of epichlorhydrine were introduced. The reaction medium was maintained under stirring for 6 hours at 70°-80° C. and then concentrated in a rotary evaporator. After extraction with ethyl ether, the organic fractions were collected and distilled under 1 mm Hg.

reactant | di-n-propylacetic acid | 0.48 mol, 70 g | C(CC)C(C(=O)O)CCC | C8H16O2
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | epichlorhydrine | 1.5 mol, 138.7 g | C(Cl)C1CO1 | C3H5ClO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,3-Epoxy-propyl di-n-propylacetate | C(CC)C(C(=O)OCC1CO1)CCC | C11H20O3
